US05153203
To a mixture of 325 mg of ethyl 1-(2,4-difluorophenyl)-6-fluoro-7-chloro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate, 325 mg of 1-t-butoxycarbonyl-3hydroxypyrrolidine, 194 mg of DBU and 3 ml of DMF was added 46 mg of 55% sodium hydride while the former was stirred at room temperature. After the resultant mixture was stirred for 1.5 hours at room temperature, the reaction mixture was treated in a similar manner to Example 1-(1), whereby 240 mg of ethyl 7-(1-t-butoxycarbonyl-3-pyrrolidinyloxy)-1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate was obtained.

reactant | ethyl 1-(2,4-difluorophenyl)-6-fluoro-7-chloro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate | 325 mg | FC1=C(C=CC(=C1)F)N1C=C(C(C2=CC(=C(N=C12)Cl)F)=O)C(=O)OCC | C17H10ClF3N2O3
reactant | 1-t-butoxycarbonyl-3hydroxypyrrolidine | 325 mg | C(C)(C)(C)OC(=O)N1CC(CC1)O | C9H17NO3
reactant | DBU | 194 mg | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | sodium hydride | 46 mg | [H-].[Na+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | ethyl 7-(1-t-butoxycarbonyl-3-pyrrolidinyloxy)-1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate | 240 mg | C(C)(C)(C)OC(=O)N1CC(CC1)OC1=C(C=C2C(C(=CN(C2=N1)C1=C(C=C(C=C1)F)F)C(=O)OCC)=O)F | C26H26F3N3O6
